US04045571
3-methyl-1-(α-n-propylbenzyl)-pyrazol-5-one
13 g of acetoacetic acid ethyl ester were dissolved in 20 ml of absolute ethanol. 16.4 g of α-n-propylbenzylhydrazine in a little absolute ethanol were slowly added to this solution under nitrogen. After the exothermic reaction had subsided, the mixture was heated for 2 hours under reflux.

reactant | acetoacetic acid ethyl ester | 13 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | α-n-propylbenzylhydrazine | 16.4 g | C(CC)C(C1=CC=CC=C1)NN | C10H16N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-methyl-1-(α-n-propylbenzyl)-pyrazol-5-one | CC=1NN(C(C1)=O)C(C1=CC=CC=C1)CCC | C14H18N2O
